US04267176
To a solution of O-methylhydroxylamine hydrochloride (0.25 g.) in methanol (6 ml.) was added a mixture of potassium 2-(4-aminopyrimidin-2-yl)glyoxylate and its monohydrate with stirring at ambient temperature, and the mixture was stirred for 4 hours. The reaction mixture was allowed to stand overnight at ambient temperature, filtered, and the filtered precipitates were washed with ethanol. After the filtrate and washings were combined together, the solvents were distilled off. The resultant oily substance was pulverized in acetone (15 ml.) and collected by filtration. Thus obtained powder was washed successively with acetone and diethyl ether and then dried to give a pale brown powder of 2-(4-aminopyrimidin-2-yl)-2-methoxyiminoacetic acid (syn isomer) (290 mg.).

reactant | O-methylhydroxylamine hydrochloride | 0.25 g | Cl.CON
reactant | potassium 2-(4-aminopyrimidin-2-yl)glyoxylate | NC1=NC(=NC=C1)C(C(=O)[O-])=O.[K+]
solvent | methanol | 6 ml | CO | CH4O
product | 2-(4-aminopyrimidin-2-yl)-2-methoxyiminoacetic acid | 290 mg | NC1=NC(=NC=C1)C(C(=O)O)=NOC | C7H8N4O3
